US05405550
A solution of [1.1.1]propellane in diethyl ether prepared by the above procedure (210 ml, 3% in [1.1.1]propellane according to integrated 1H NMR intensities), 150 ml of acetaldehyde and 0.4 g of benzoyl peroxide was stirred and irradiated as above for 6 h. Evaporation of solvents and access acetaldehyde at reduced pressure (at the end, 50° C./0.8 mm Hg) furnished 15.06 g of crude 1-acetyl-3-(1-hydroxyethyl) bicyclo [1.1.1]pentane in the form of a yellowish oil (about 80% pure by GC): 1H NMR delta 1.05 (d, J-6.4 Hz, 3H), 1.81 (d, J-9.0 Hz, 3H), 1.87 (d, J-9.0 Hz, 3H), 2.06 (s, 3H), 3.74 (g, J-6.4 Hz, 1H); 13C NMR (major peaks) 19.17, 25.95, 42.70, 43.41, 48.49, 66.21, 206.90; GC-MS, m/z (relative intensity) 139(24, M-Me), 121(63), 111(27), 95(30), 93(68), 91(59), 77(81), 71(100).

reactant | acetaldehyde | 150 ml | C(C)=O | C2H4O
reactant | benzoyl peroxide | 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | [1.1.1]propellane | C1C23C1(C2)C3 | C5H6
product | 1-acetyl-3-(1-hydroxyethyl) bicyclo [1.1.1]pentane | 15.06 g | C(C)(=O)C12CC(C1)(C2)C(C)O | C9H14O2
